US08754100B2
Synthesis of 5-bromo-3-methoxy-2-(4-methyl-1H-imidazol-1-yl)pyridine
A mixture of the crude N-(5-bromo-3-methoxypyridin-2-yl)-N-(2-oxopropyl)formamide (26.4 g), acetic acid (52.8 mL) and ammonium acetate (35.5 g) was stirred at 130° C. for one hour. The reaction solution was left to cool to room temperature and concentrated under reduced pressure. The residue diluted with ice water, ethyl acetate and aqueous ammonia, and the organic layer was separated. The organic layer was washed with brine and then dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent:heptane-ethyl acetate system) to obtain 5.69 g of the title compound. The property values of the compound are as follows.

reactant | N-(5-bromo-3-methoxypyridin-2-yl)-N-(2-oxopropyl)formamide | 26.4 g | BrC=1C=C(C(=NC1)N(C=O)CC(C)=O)OC | C10H11BrN2O3
reactant | ammonium acetate | 35.5 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 52.8 mL | C(C)(=O)O | C2H4O2
product | 5-bromo-3-methoxy-2-(4-methyl-1H-imidazol-1-yl)pyridine | 5.69 g | BrC=1C=C(C(=NC1)N1C=NC(=C1)C)OC | C10H10BrN3O
